US08217035B2
2-(2-aminothiazol-4-yl)-N,N-diethylacetamide
A mixture of 2-(2-aminothiazol-4-yl)acetic acid (1 eq), HOAT (1 eq), EDC (1.1 eq), TEA (1 eq) and HNEt2 (1 eq) in DMA was stirred at room temperature for 6 hours. The reaction mixture was then quenched with H2O and concentrated. The residue was dissolved in a stirred 4:1 mixture of EtOAc and NaHCO3(sat.). The two phases were separated and the organic solution was washed with brine, dried over Na2SO4 and concentrated to dryness. The resulting solid was washed twice with Et2O and dried to yield the desired product as a white solid. LC/MS (m/z): 214.0 (MH+), Rt 1.13 minutes.

reactant | 2-(2-aminothiazol-4-yl)acetic acid | 1 eq | NC=1SC=C(N1)CC(=O)O | C5H6N2O2S
reactant | HOAT | 1 eq | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | EDC | 1.1 eq
reactant | HNEt2 | 1 eq | N(CC)CC | C4H11N
solvent | DMA | CC(=O)N(C)C | C4H9NO
product | 2-(2-aminothiazol-4-yl)-N,N-diethylacetamide | NC=1SC=C(N1)CC(=O)N(CC)CC | C9H15N3OS
